US05747517
Preparation of 5-[[4-[(2-benzylphenyl)methoxy]phenyl]methylene]-2-thioxo-4-thiazolidinone
Under a nitrogen atmosphere in a round bottom flask 4-[(2-benzylphenyl)methoxy]benzaldehyde (4.5 g, 14.9 mmol), sodium acetate (4.27 g, 52 mmol), and rhodanine (1.98 g, 14.9 mmol) were dissolved in 75 ml of acetic acid. The reaction solution was then heated to reflux and maintained at this temperature for about three days.

reactant | 4-[(2-benzylphenyl)methoxy]benzaldehyde | 14.9 mmol, 4.5 g | C(C1=CC=CC=C1)C1=C(C=CC=C1)COC1=CC=C(C=O)C=C1 | C21H18O2
reactant | sodium acetate | 52 mmol, 4.27 g | C(C)(=O)[O-].[Na+]
reactant | rhodanine | 14.9 mmol, 1.98 g | S1C(=S)NC(=O)C1 | C3H3NOS2
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
product | 5-[[4-[(2-benzylphenyl)methoxy]phenyl]methylene]-2-thioxo-4-thiazolidinone | C(C1=CC=CC=C1)C1=C(C=CC=C1)COC1=CC=C(C=C1)C=C1C(NC(S1)=S)=O | C24H19NO2S2
